US04971982
0.5 g of 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran was dissolved in 10 ml of carbon tetrachloride at room temperature and 0.25 ml of pyridine and 0.12 ml of bromine were added. The mixture was stirred at room temperature for 1 hour, then at 35° C. for 1 hour and finally at 65° C. for 1 hour. After cooling the mixture was washed with sodium bicarbonate solution, the aqueous washings were extracted with dichloromethane and the combined organic phases were washed with water, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using 2% (v/v) methanol/dichloromethane for the elution. The product was recrystallized from t-butyl methyl ether to give 230 mg of 6-bromo-3,4-dihydro-2,2-dimethyl)-4-(2-pyridyl)-2H-1-benzopyran of melting point 134-136° C.

reactant | 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran | 0.5 g | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=CC=C2)C | C16H17NO
reactant | pyridine | 0.25 ml | N1=CC=CC=C1 | C5H5N
reactant | bromine | 0.12 ml | BrBr | Br2
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(2-pyridyl)-2H-1-benzopyran | N1=C(C=CC=C1)C1=CCOC2=C1C=CC=C2 | C14H11NO
